US06331556B2
7-Difluoromethoxy-2-(tetrahydrofuran-3-yl)-benzofuran-4-carboxylic acid (4-cyano-2-methyl-2-H-pyrazol-3-yl)-amide
Prepared from 7-difluoromethoxy-2-(tetrahydrofuran-3-yl)-benzofuran-4-carboxylic acid 4-nitrophenyl ester (380 mg) and 5-amino-1-methyl-1-H-pyrazole-4-carbonitrile (220 mg). The reaction was stirred for 2 hours at room temperature. Water (1 ml) was added and the solvent removed in vacuo. The residue was dissolved in ethyl acetate (50 ml) and washed with water (2×40 ml), followed by 1N hydrochloric acid (40 ml). The organic extract was dried over magnesium sulphate, filtered and preadsorbed onto silica. Purification by column chromatography on silica eluting with 70% ethyl acetate in heptane, followed by trituration with diethyl ether afforded the title compound as a white solid (170 mg).

reactant | 7-difluoromethoxy-2-(tetrahydrofuran-3-yl)-benzofuran-4-carboxylic acid 4-nitrophenyl ester | 380 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)C2COCC2)OC(F)F | C20H15F2NO7
reactant | 5-amino-1-methyl-1-H-pyrazole-4-carbonitrile | 220 mg | NC1=C(C=NN1C)C#N | C5H6N4
solvent | Water | 1 ml | O | H2O
product | 7-Difluoromethoxy-2-(tetrahydrofuran-3-yl)-benzofuran-4-carboxylic acid (4-cyano-2-methyl-2-H-pyrazol-3-yl)-amide | 170 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C=1C=CC(=C2C1C=C(O2)C2COCC2)OC(F)F | C19H16F2N4O4
